US06664380B1
To a solution of phenethyl alcohol (122 mg, 1.0 mmol) in glacial acetic acid (2 mL) was added formaldehyde (40% in water, 100 μl, 1.5 mmol) and Yb(CNf3)3 (276 mg, 0.1 mmol, 10 mol %). The mixture was stirred at reflux for 18 hours. The mixture was allowed to cool, diluted with CH2Cl2, washed with water, aqueous sodium hydrogen carbonate solution, and brine, dried over MgSO4, filtered and evaporated. Chromatography (3:1 PE:Et2O) gave isochroman (54 mg, 40%) as a colourless oil: IR (thin film; NaCl plate) 2929, 2851, 1605, 1585 cm−1; δH (300 MHz, CDCl3) 7.23-7.14 (3H, m, Ar—H×3), 7.04-7.00 (1H, m, Ar—H), 4.82 (2H, s, ArCH2O), 4.04 (2H, t, J=5.7 Hz, ArCH2OCH2), 2.90 (2H, t, J=5.7 Hz, ArCH2CH2); δC (75 MHz, CDCl3) 135.0, 133.3, 129.0, 126.4, 126.0, 124.4, 68.0, 65.4, 28.4; MS 134 (M+), 104, 77, 51.

reactant | phenethyl alcohol | 1.0 mmol, 122 mg | C(CC1=CC=CC=C1)O | C8H10O
reactant | formaldehyde | 1.5 mmol, 100 μl | C=O | CH2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | isochroman | 54 mg, 40% | C1OCCC2=CC=CC=C12 | C9H10O
